US05543409
Propyl isocyanate (2.38 g) was added dropwise to 5.13 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane suspended in 60 ml of 2-methoxyethanol. The mixture was stirred at room temperature for 10 minutes. Crystals precipitated were collected by filtration and recrystallized from methanol-acetonitrile to obtain 4.91 g of 2(propylcarbamoyl) amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | Propyl isocyanate | 2.38 g | C(CC)N=C=O | C4H7NO
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 5.13 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
solvent | 2-methoxyethanol | 60 ml | COCCO | C3H8O2
product | 2(propylcarbamoyl) amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 4.91 g | C(CC)NC(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H22N4O2
